US08895558B2
Step 1: quinolin-8-yl trifluoromethanesulfonate
To a solution of quinolin-8-ol (8 g, 0.055 mol) and K2CO3 (15.2 g, 0.110 mol) in pyridine (60 ml) at −20° C. were added with trifluoromethanesulfonic anhydride (14 ml, 0.083 mol) dropwise. After stirring for 1 hour at −20° C., the reaction mixture was stirred at room temperature for 2 days. The resulting solution was quenched with water, and normal work-up was preceded. The residue was purified with normal preparative column to provide title compound (13 g, 85%) as white solid.

reactant | quinolin-8-ol | 0.055 mol, 8 g | N1=CC=CC2=CC=CC(=C12)O | C9H7NO
reactant | K2CO3 | 0.110 mol, 15.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | trifluoromethanesulfonic anhydride | 0.083 mol, 14 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | quinolin-8-yl trifluoromethanesulfonate | 13 g, 85% | FC(S(=O)(=O)OC=1C=CC=C2C=CC=NC12)(F)F | C10H6F3NO3S
